US08067408B2
N-[(3-Bromo-4-methylphenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide
3-[({[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]benzoic acid (0.451 g, 1 mmol), [(3-bromo-4-methylphenyl)methyl]amine (0.2 g, 1 mmol, HBTU (0.379 g, 1 mmol), and TEA (0.278 mL, 2 mmol) were combined in CH2Cl2 (25 mL). The mixture was stirred overnight at room temperature. Aqueous workup gave the crude product which was CombiFlashed on a 40 g column eluted with 0-10% MeOH/CH2Cl2 to give the title compound as a white solid. LC-MS m/z 633.8 (M+H)+, 1.85 min (ret time); mp 175-176° C.; analytical HPLC shows 97.5% purity, (ret time 13.568 min).

reactant | 3-[({[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]benzoic acid | 1 mmol, 0.451 g | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C=2C=C(C(=O)O)C=CC2)CC | C24H29N5O4
reactant | [(3-bromo-4-methylphenyl)methyl]amine | BrC=1C=C(C=CC1C)CN | C8H10BrN
reactant | HBTU | 1 mmol, 0.379 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | N-[(3-Bromo-4-methylphenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide | BrC=1C=C(C=CC1C)CNC(=O)C1=CC(=CC=C1)C(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C32H37BrN6O3
